US07718808B2
2-Amino-4-(2-furyl)-5-(4-pyridyl)thiazole (Compound a)
2-Bromo-1-(2-furyl)-2-(4-pyridyl)ethanone hydrobromide (7.59 g, 21.9 mmol) was suspended in ethanol (110 mL), and triethylamine (3.35 mL, 24.1 mmol) was added thereto, followed by stirring at room temperature for 30 minutes. Thiourea (1.83 g, 24.1 mmol) was added to the reaction mixture, followed by stirring under heating and reflux for 30 minutes. The reaction mixture was allowed to cool down to room temperature, and then a saturated aqueous solution of sodium hydrogencarbonate was added thereto, followed by extraction with chloroform. The organic layer was washed with a saturated aqueous solution of sodium chloride and dried over anhydrous magnesium sulfate, and then the solvent was distilled away under reduced pressure. The resulting residue was purified through silica gel column chromatography (chloroform:methanol=10:1) to afford the entitled Compound a (5.10 g, 96%) as pale yellow crystals.

reactant | 2-Bromo-1-(2-furyl)-2-(4-pyridyl)ethanone hydrobromide | 21.9 mmol, 7.59 g | Br.BrC(C(=O)C=1OC=CC1)C1=CC=NC=C1
reactant | triethylamine | 24.1 mmol, 3.35 mL | C(C)N(CC)CC | C6H15N
reactant | Thiourea | 24.1 mmol, 1.83 g | NC(=S)N | CH4N2S
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | ethanol | 110 mL | C(C)O | C2H6O
product | 2-Amino-4-(2-furyl)-5-(4-pyridyl)thiazole | NC=1SC(=C(N1)C=1OC=CC1)C1=CC=NC=C1 | C12H9N3OS
